US08802670B2
To a solution of 4-Pyrazol-1-ylmethyl-piperidine-1-carboxylic acid tert-butyl ester (215 mg) in anhydrous dichloromethane (5 ml) was added 2M hydrogen chloride in ether (4.1 ml). The reaction mixture was stirred at room temperature for 6 hours. The solvents were removed in vacuo to yield 4-Pyrazol-1-ylmethyl-piperidine hydrochloride salt.

reactant | 4-Pyrazol-1-ylmethyl-piperidine-1-carboxylic acid tert-butyl ester | 215 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CN1N=CC=C1 | C14H23N3O2
reactant | hydrogen chloride | 2M | Cl | ClH
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | ether | 4.1 ml | CCOCC | C4H10O
product | 4-Pyrazol-1-ylmethyl-piperidine hydrochloride salt | Cl.N1(N=CC=C1)CC1CCNCC1 | InChI=1S/C9H15N3.ClH/c1-4-11-12(7-1)8-9-2-5-10-6-3-9;/h1,4,7,9-10H,2-3,5-6,8H2;1H
